US09163011B2
e) (R)-3-(6-Bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester
Freshly ground KF (195 mg, 3.36 mmol) was added to a solution of (R)-3-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester (940 mg, 1.68 mmol) and acetic acid (0.192 ml, 3.36 mmol) in THF (7 ml). DMF (7 ml) was added and the suspension was stirred at rt. After 2 h the reaction mixture was diluted with ethyl acetate and washed with sat. sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and evaporated. The crude product (733 mg) was chromatographed over silica gel (cyclohexane/ethyl acetate 7:3) to give the title compound as a slightly yellow oil. 664 mg (88% yield).

reactant | KF | 3.36 mmol, 195 mg | [F-].[K+]
reactant | (R)-3-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester | 1.68 mmol, 940 mg | C(C)OC(C([C@](C)(N[S@](=O)C(C)(C)C)C1=NC(=CC(=C1F)[Si](CC)(CC)CC)Br)(F)F)=O | C21H34BrF3N2O3SSi
reactant | acetic acid | 3.36 mmol, 0.192 ml | C(C)(=O)O | C2H4O2
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(6-Bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-3-((R)-2-methyl-propane-2-sulfinylamino)-butyric acid ethyl ester | 88% yield | C(C)OC(C([C@](C)(N[S@](=O)C(C)(C)C)C1=NC(=CC=C1F)Br)(F)F)=O | C15H20BrF3N2O3S
